US05153352
Dimethyl 3-phenylthiocyclobutane-1,2-dicarboxylate
To a solution of dimethyl maleate (0.50 mL, 4 mmol) and phenyl vinyl sulfide (0.52 mL, 4 mmol) in 17 mL of 1,2-dichloroethane under nitrogen atmosphere, was added 1 equivalent (4 mL of a 1 M solution in hexane) of ethylaluminum dichloride. The resultant solution was heated at 85° C. for 18 h and then diluted with 75 mL of methylene chloride. The methylene chloride solution was washed three times with saturated aqueous ammonium chloride and once with brine, dried over anhydrous sodium sulfate, filtered and concentrated to give 0.98 g of the title compound; EI-MS, m/e (rel intensity): 280 (M+, 14), 136 (100).

reactant | dimethyl maleate | 4 mmol, 0.50 mL | C(\C=C/C(=O)OC)(=O)OC | C6H8O4
reactant | phenyl vinyl sulfide | 4 mmol, 0.52 mL | C(=C)SC1=CC=CC=C1 | C8H8S
reactant | ethylaluminum dichloride | [Cl-].[Cl-].C(C)[Al+2]
reactant | hexane | CCCCCC | C6H14
solvent | 1,2-dichloroethane | 17 mL | ClCCCl | C2H4Cl2
solvent | methylene chloride | 75 mL | C(Cl)Cl | CH2Cl2
product | Dimethyl 3-phenylthiocyclobutane-1,2-dicarboxylate | 0.98 g | C1(=CC=CC=C1)C1C(C(C1)C(=S)OC)C(=O)OC | C14H16O3S
